US03959486
2-Hydroxy-N,5-dimethylphenoxyacetamide, m.p. 163°-165°C. is prepared from 2-benzoyloxy-5-methylphenol by a similar process to that described in Example 12 for the preparation of 5-benzoyloxy-2-hydroxy-N-methylphenoxyacetamide from 2-benzoyloxy-5-benzyloxyphenol.

reactant | 2-benzoyloxy-5-methylphenol | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C)O | C14H12O3
reactant | 5-benzoyloxy-2-hydroxy-N-methylphenoxyacetamide | C(C1=CC=CC=C1)(=O)OC=1C=CC(=C(OCC(=O)NC)C1)O | C16H15NO5
reactant | 2-benzoyloxy-5-benzyloxyphenol | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)O | C20H16O4
product | 2-Hydroxy-N,5-dimethylphenoxyacetamide | OC1=C(OCC(=O)NC)C=C(C=C1)C | C10H13NO3
